US05306824
Preparation of 7-biotinylamino-4-chloro-3-propyloxyisocoumarin
This compound was prepared similarly as 7-biotinylamino-4-chloro-3-(2-phenylethoxy)isocoumarin from biotin acid chloride and 7-amino-4-chloro-3-propyloxyisocoumarin, yield 20%, mp 127°-131° C., NMR was consistent with the assigned structure, mass spectra (FAB+) m/e=502 (M+Na+1). Anal. Calc. for C22H26N3O5ClS.H2O: C, 53.06; H, 5.67; N, 8.44; Cl, 7.12. Found: C, 53.30; H, 5.67; N, 8.49; Cl, 7.03.

reactant | 7-biotinylamino-4-chloro-3-(2-phenylethoxy)isocoumarin | C(CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12)(=O)NC1=CC=C2C(=C(OC(=O)C2=C1)OCCC1=CC=CC=C1)Cl | C27H28ClN3O5S
reactant | 7-amino-4-chloro-3-propyloxyisocoumarin | NC1=CC=C2C(=C(OC(=O)C2=C1)OCCC)Cl | C12H12ClNO3
solvent | H2O | O | H2O
product | 7-biotinylamino-4-chloro-3-propyloxyisocoumarin | yield 20% | C(CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12)(=O)NC1=CC=C2C(=C(OC(=O)C2=C1)OCCC)Cl | C22H26ClN3O5S
